US08304419B2
To a solution of 1,1-dimethylethyl({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)carbamate (880 mg, 2.111 mmol) dissolved in DCM (15 ml) was added TFA (5.0 ml) and the reaction mixture was stirred for 30 minutes at RT. The reaction mixture was neutralized with saturated sodium bicarbonate, diluted with EtOAc, and the organics layer was separated. The solvent was evaporated and the crude material was purifed via silica gel chromatography to give 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-cyclopropylbenzonitrile (594 mg, 1.875 mmol, 89% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.38-7.52 (m, 2H), 7.22 (s, 1H), 7.04 (d, 2H), 3.73 (s, 2H), 1.91-2.01 (m, 1H), 1.89 (br. s., 2H), 0.89-1.04 (m, 2H), 0.64-0.81 (m, 2H).

reactant | 1,1-dimethylethyl({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)carbamate | 2.111 mmol, 880 mg | CC(C)(C)N(C([O-])=O)CC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)C#N)F
reactant | TFA | 5.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-cyclopropylbenzonitrile | 1.875 mmol, 594 mg, 89% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C1CC1)F | C17H14ClFN2O
